US07319108B2
(4-Chlorophenoxy)acetic Acid
A mixture of 4-chlorophenol (500 mg), methyl bromoacetate (0.368 ml), cesium carbonate (1.9 g) and 5 ml of acetone was stirred at room temperature for 12 h. Ethyl acetate and water were then added to the reaction solution, and the organic phase was washed twice with water, dried over sodium sulfate and filtered, and the solvent was removed in vacuo. The crude product was dissolved in a 1:1 THF/water mixture (10 ml), and potassium hydroxide (417 mg) was added. The reaction was stirred at room temperature for 12 h. Ethyl acetate and water were then added to the reaction solution, and the aqueous phase was adjusted to pH 2 and extracted several times with ethyl acetate. The combined organic phases were washed twice with water, dried over sodium sulfate and filtered, and the solvent was removed in vacuo. The product with the molecular weight of 186.6 (C8H7ClO3) was obtained in this way; MS (ESI): 227.0 (M+CH3CN).

reactant | 4-chlorophenol | 500 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | methyl bromoacetate | 0.368 ml | BrCC(=O)OC | C3H5BrO2
reactant | cesium carbonate | 1.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | CH3CN | CC#N | C2H3N
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Chlorophenoxy)acetic Acid | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
